US07964607B2
1-cyclopentyl-6-{(3S,4S)-4-methyl-1-[(1-methyl-1H-benzimidazol-2-yl)methyl]pyrrolidin-3-yl}-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 1-cyclopentyl-6-[(3,4-trans)-4-methyl-1-(pyridin-3-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting 1-cyclopentyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one and 1-methyl-1H-benzo[d]imidazole-2-carbaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 7.98 (s, 1H), 7.73 (m, 1H), 7.35 (dd, J=7.1, 1.2 Hz, 1H), 7.29-7.21 (m, 2H), 5.13-5.09 (m, 1H), 4.11-4.06 (m, 2H), 3.97 (s, 3H), 3.37 (t, J=8.3 Hz, 1H), 3.06 (d, J=10.4 Hz, 1H), 2.88-2.85 (m, 1H), 2.77-2.73 (m, 1H), 2.16-1.92 (m, 8H), 1.70-1.66 (m, 2H), 1.21 (d, J=7.1 Hz, 3H). MS: (M+H m/z=432.1).

reactant | 1-cyclopentyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | C1(CCCC1)N1N=CC2=C1N=C(NC2=O)[C@@H]2CNC[C@H]2C | C15H21N5O
reactant | 1-methyl-1H-benzo[d]imidazole-2-carbaldehyde | CN1C(=NC2=C1C=CC=C2)C=O | C9H8N2O
product | 1-cyclopentyl-6-{(3S,4S)-4-methyl-1-[(1-methyl-1H-benzimidazol-2-yl)methyl]pyrrolidin-3-yl}-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1N=CC2=C1N=C(NC2=O)[C@@H]2CN(C[C@H]2C)CC2=NC1=C(N2C)C=CC=C1 | C24H29N7O
